US05962292
The cells, the treated cells or the enzyme preparation are added to 240 mM TES [N-tris(hydroxymethyl)methyl-2-aminoethanesulfonic acid] buffer containing 12 mM L-proline, 24 mM 2-ketoglutaric acid, 4 mM ferrous sulfate and 8 mM L-ascorbic acid to make 250 μl in total. The mixture is kept at 35° C. for 10 minutes. The reaction mixture is heated at 100° C. for 2 minutes to stop the reaction, and the amount of cis-3-hydroxy-L-proline produced in the reaction mixture is determined by HPLC.

reactant | TES | 240 mM | C(CS(=O)(=O)O)NC(CO)(CO)CO | C6H15NO6S
reactant | L-proline | 12 mM | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 2-ketoglutaric acid | 24 mM | O=C(C(=O)O)CCC(=O)O | C5H6O5
reactant | L-ascorbic acid | 8 mM | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
product | cis-3-hydroxy-L-proline | O[C@H]1[C@H](NCC1)C(=O)O | C5H9NO3
